US06573274B1
Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (1.00 g) was dissolved in acetic acid (5.0 ml) and 2,5-dimethoxytetrahydrofuran (420 mg) was added, which was followed by refluxing under heating for 2 hr. The reaction mixture was concentrated under reduced pressure and the residue was applied to silica gel column chromatography and eluted with chloroform:ethyl acetate=3:1. The objective fraction was concentrated under reduced pressure and ethyl acetate (10.0 ml) was added to the residue. After heating, the mixture was allowed to cool and the precipitated crystals were collected by filtration to give methyl 3-(2-chloro-4-(1-pyrrolyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (641 mg) as colorless crystals.

reactant | Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 1.00 g | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | 2,5-dimethoxytetrahydrofuran | 420 mg | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | methyl 3-(2-chloro-4-(1-pyrrolyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 641 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)N1C=CC=C1 | C20H17ClN4O2
